US06313290B1
(c) Ethyl 3-phenyl-4-[(4-chloro-2-nitrophenyl)(hydroxy)methyl]-1H-pyrazole-5-carboxylate
A solution of freshly generated phenyldiazomethane (2.44 g, 20.7 mmol) in 10 mL of anhydrous THF was added to ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate (5.86 g, 20.7 mmol) in 10 mL THF and the mixture was stirred at room temperature for 18 hours. The reaction mixture was quenched with excess ethereal acetic acid and concentrated via rotary evaporation to an oil (12.24 g) which solidified on cooling. This was filtered to yield the title compound as a pale yellow solid (2.42 g). The filtrate was concentrated via rotary evaporation to an oil which was triturated with hexane:ethyl acetate (4:1) to yield an additional 1.52 g of the title compound (48% combined yield).

reactant | phenyldiazomethane | 20.7 mmol, 2.44 g | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
reactant | ethyl 4-(4-chloro-2-nitrophenyl)-4-hydroxy-2-butynoate | 20.7 mmol, 5.86 g | ClC1=CC(=C(C=C1)C(C#CC(=O)OCC)O)[N+](=O)[O-] | C12H10ClNO5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 3-phenyl-4-[(4-chloro-2-nitrophenyl)(hydroxy)methyl]-1H-pyrazole-5-carboxylate | 2.42 g | C1(=CC=CC=C1)C1=NNC(=C1C(O)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C(=O)OCC | C19H16ClN3O5
